US08871788B2
(2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-carboxylic acid tert-butyl ester
(R)-3-(Toluene-4-sulfonyloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester (52 g, 0.15 mol, 1.0 eq) prepared in accordance of the procedures set forth in Intermediate (i), (2S)-2-methylpyrrolidine (25.2 g, 0.3 mol, 2.0 eq), anhydrous CH3CN (500 ml), and dry K2CO3 powder (50 g, 36 mmol, 2.4 eq) were added to a 2 L round-bottom flask equipped with a mechanical stirrer and a reflux condenser. The resulting suspension was stirred at 75° C. for 20 h. The heating block was set at 88° C. LC/MS showed a trivial amount of starting material at m/z 363. The reaction mixture was concentrated in vacuo. The residue was partitioned between 200 ml of water and 400 ml of DCM. The aqueous layer was washed with 50 ml of DCM twice. The organic extracts were combined and washed with 150 ml of saturated NaHCO3 solution, 150 ml of brine, and dried over K2CO3. The crude was purified by silica gel column, eluted with 5-10% MeOH in DCM. The product still had weak UV absorptions at 254 nm and 280 nm. A pale yellow oil was obtained, yield: 24.5 g (64%).

reactant | (R)-3-(Toluene-4-sulfonyloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.15 mol, 52 g, 1.0 eq | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)OS(=O)(=O)C1=CC=C(C=C1)C | C16H23NO5S
reactant | (2S)-2-methylpyrrolidine | 0.3 mol, 25.2 g, 2.0 eq | C[C@@H]1NCCC1 | C5H11N
reactant | K2CO3 | 36 mmol, 50 g, 2.4 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 500 ml | CC#N | C2H3N
product | (2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](CC1)N1[C@H](CCC1)C | C14H26N2O2
